US07964643B2
Biphenyl-4-sulfonic acid-(4-hydroxybutyl)-pentyl-amide (ABD-164)
Using a method analogous to that described in Example 4, with biphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide and bromopentane, reacted at 60° C. for 3 hours, the title compound was obtained as an amorphous white solid. δC (CDCl3, 62.9 MHz): 14.0, 22.3, 25.3, 28.4, 29.6, 48.1, 48.4, 62.2, 127.3, 127.6, 128.4, 129.0, 138.5, 139.4 and 145.2. δH (CDCl3, 250 MHz): 0.84 (3H, t, J 7.0), 1.24 (4H, m), 1.50 (6H, m), 2.06 (1H, s), 3.14 (4H, m), 3.62 (2H, t, J 5.95), 7.41 (3H, m), 7.56 (2H, d, J 7.94), 7.67 (2H, d, J 8.55) and 7.83 (2H, d, J 8.24).

reactant | biphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C16H19NO3S
reactant | bromopentane | BrCCCCC | C5H11Br
product | Biphenyl-4-sulfonic acid-(4-hydroxybutyl)-pentyl-amide | OCCCCN(S(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1)CCCCC | C21H29NO3S
